US09403835B2
Step 1: 3-(2-formyl-phenoxy)-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
tBuOK (136 mg; 1.2 mmol; 1.5 eq.) was added at 10° C. to a solution of 3-hydroxy-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (247 mg; 0.97 mmol; 1.2 eq.) in 1,4-dioxane (10 mL) and the reaction mixture was stirred at room temperature for 15 minutes whereupon 2-fluoro-benzaldehyde (100 mg; 0.81 mmol; 1 eq.) was added. The reaction mixture was stirred at 100° C. for 3 hours then diluted with sat. aq. NH4Cl and extracted with EA (2×). The combined organics were washed with brine, dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (DCM) afforded the title compound (95 mg, 33%) as a colourless oil. HPLC (max plot) 98.2%, Rt 4.87 min.

reactant | tBuOK | 1.2 mmol, 136 mg, 1.5 eq. | C(C)(C)(C)O[K]
reactant | 3-hydroxy-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.97 mmol, 247 mg, 1.2 eq. | C(C)(C)(C)OC(=O)N1CC(CC1)(C(F)(F)F)O | C10H16F3NO3
reactant | 2-fluoro-benzaldehyde | 0.81 mmol, 100 mg, 1 eq. | FC1=C(C=O)C=CC=C1 | C7H5FO
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-(2-formyl-phenoxy)-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 95 mg, 33% | C(C)(C)(C)OC(=O)N1CC(CC1)(C(F)(F)F)OC1=C(C=CC=C1)C=O | C17H20F3NO4
